* SPICE3 file created from GenProp_WI.ext - technology: scmos

.option scale=0.09u

M1000 XOR_WO_3/a_59_n30# b3 XOR_WO_3/2INV_1/a_6_87# XOR_WO_3/2INV_1/w_0_81# pfet w=20 l=2
+  ad=100 pd=50 as=100 ps=50
M1001 XOR_WO_3/a_59_n30# b3 gnd Gnd nfet w=10 l=2
+  ad=50 pd=30 as=1200 ps=680
M1002 XOR_WO_3/a_51_n59# a3 vdd XOR_WO_3/2INV_0/w_0_81# pfet w=20 l=2
+  ad=100 pd=50 as=2160 ps=968
M1003 XOR_WO_3/a_51_n59# a3 gnd Gnd nfet w=10 l=2
+  ad=50 pd=30 as=0 ps=0
M1004 vdd XOR_WO_3/a_51_n59# XOR_WO_3/a_56_27# XOR_WO_3/w_50_21# pfet w=40 l=2
+  ad=0 pd=0 as=400 ps=180
M1005 XOR_WO_3/a_71_27# XOR_WO_3/a_59_n30# vdd XOR_WO_3/w_50_21# pfet w=40 l=2
+  ad=240 pd=92 as=0 ps=0
M1006 p3 a3 XOR_WO_3/a_71_27# XOR_WO_3/w_50_21# pfet w=40 l=2
+  ad=240 pd=92 as=0 ps=0
M1007 XOR_WO_3/a_56_27# b3 p3 XOR_WO_3/w_50_21# pfet w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1008 XOR_WO_3/a_63_n51# XOR_WO_3/a_59_n30# gnd Gnd nfet w=10 l=2
+  ad=60 pd=32 as=0 ps=0
M1009 p3 XOR_WO_3/a_51_n59# XOR_WO_3/a_63_n51# Gnd nfet w=10 l=2
+  ad=60 pd=32 as=0 ps=0
M1010 XOR_WO_3/a_79_n51# a3 p3 Gnd nfet w=10 l=2
+  ad=60 pd=32 as=0 ps=0
M1011 gnd b3 XOR_WO_3/a_79_n51# Gnd nfet w=10 l=2
+  ad=0 pd=0 as=0 ps=0
M1012 XOR_WO_2/a_59_n30# b2 XOR_WO_2/2INV_1/a_6_87# XOR_WO_2/2INV_1/w_0_81# pfet w=20 l=2
+  ad=100 pd=50 as=100 ps=50
M1013 XOR_WO_2/a_59_n30# b2 gnd Gnd nfet w=10 l=2
+  ad=50 pd=30 as=0 ps=0
M1014 XOR_WO_2/a_51_n59# a2 vdd XOR_WO_2/2INV_0/w_0_81# pfet w=20 l=2
+  ad=100 pd=50 as=0 ps=0
M1015 XOR_WO_2/a_51_n59# a2 gnd Gnd nfet w=10 l=2
+  ad=50 pd=30 as=0 ps=0
M1016 vdd XOR_WO_2/a_51_n59# XOR_WO_2/a_56_27# XOR_WO_2/w_50_21# pfet w=40 l=2
+  ad=0 pd=0 as=400 ps=180
M1017 XOR_WO_2/a_71_27# XOR_WO_2/a_59_n30# vdd XOR_WO_2/w_50_21# pfet w=40 l=2
+  ad=240 pd=92 as=0 ps=0
M1018 p2 a2 XOR_WO_2/a_71_27# XOR_WO_2/w_50_21# pfet w=40 l=2
+  ad=240 pd=92 as=0 ps=0
M1019 XOR_WO_2/a_56_27# b2 p2 XOR_WO_2/w_50_21# pfet w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1020 XOR_WO_2/a_63_n51# XOR_WO_2/a_59_n30# gnd Gnd nfet w=10 l=2
+  ad=60 pd=32 as=0 ps=0
M1021 p2 XOR_WO_2/a_51_n59# XOR_WO_2/a_63_n51# Gnd nfet w=10 l=2
+  ad=60 pd=32 as=0 ps=0
M1022 XOR_WO_2/a_79_n51# a2 p2 Gnd nfet w=10 l=2
+  ad=60 pd=32 as=0 ps=0
M1023 gnd b2 XOR_WO_2/a_79_n51# Gnd nfet w=10 l=2
+  ad=0 pd=0 as=0 ps=0
M1024 XOR_WO_1/a_59_n30# b1 XOR_WO_1/2INV_1/a_6_87# XOR_WO_1/2INV_1/w_0_81# pfet w=20 l=2
+  ad=100 pd=50 as=100 ps=50
M1025 XOR_WO_1/a_59_n30# b1 gnd Gnd nfet w=10 l=2
+  ad=50 pd=30 as=0 ps=0
M1026 XOR_WO_1/a_51_n59# a1 vdd XOR_WO_1/2INV_0/w_0_81# pfet w=20 l=2
+  ad=100 pd=50 as=0 ps=0
M1027 XOR_WO_1/a_51_n59# a1 gnd Gnd nfet w=10 l=2
+  ad=50 pd=30 as=0 ps=0
M1028 vdd XOR_WO_1/a_51_n59# XOR_WO_1/a_56_27# XOR_WO_1/w_50_21# pfet w=40 l=2
+  ad=0 pd=0 as=400 ps=180
M1029 XOR_WO_1/a_71_27# XOR_WO_1/a_59_n30# vdd XOR_WO_1/w_50_21# pfet w=40 l=2
+  ad=240 pd=92 as=0 ps=0
M1030 p1 a1 XOR_WO_1/a_71_27# XOR_WO_1/w_50_21# pfet w=40 l=2
+  ad=240 pd=92 as=0 ps=0
M1031 XOR_WO_1/a_56_27# b1 p1 XOR_WO_1/w_50_21# pfet w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1032 XOR_WO_1/a_63_n51# XOR_WO_1/a_59_n30# gnd Gnd nfet w=10 l=2
+  ad=60 pd=32 as=0 ps=0
M1033 p1 XOR_WO_1/a_51_n59# XOR_WO_1/a_63_n51# Gnd nfet w=10 l=2
+  ad=60 pd=32 as=0 ps=0
M1034 XOR_WO_1/a_79_n51# a1 p1 Gnd nfet w=10 l=2
+  ad=60 pd=32 as=0 ps=0
M1035 gnd b1 XOR_WO_1/a_79_n51# Gnd nfet w=10 l=2
+  ad=0 pd=0 as=0 ps=0
M1036 XOR_WO_0/a_59_n30# b0 XOR_WO_0/2INV_1/a_6_87# XOR_WO_0/2INV_1/w_0_81# pfet w=20 l=2
+  ad=100 pd=50 as=100 ps=50
M1037 XOR_WO_0/a_59_n30# b0 gnd Gnd nfet w=10 l=2
+  ad=50 pd=30 as=0 ps=0
M1038 XOR_WO_0/a_51_n59# a0 vdd XOR_WO_0/2INV_0/w_0_81# pfet w=20 l=2
+  ad=100 pd=50 as=0 ps=0
M1039 XOR_WO_0/a_51_n59# a0 gnd Gnd nfet w=10 l=2
+  ad=50 pd=30 as=0 ps=0
M1040 vdd XOR_WO_0/a_51_n59# XOR_WO_0/a_56_27# XOR_WO_0/w_50_21# pfet w=40 l=2
+  ad=0 pd=0 as=400 ps=180
M1041 XOR_WO_0/a_71_27# XOR_WO_0/a_59_n30# vdd XOR_WO_0/w_50_21# pfet w=40 l=2
+  ad=240 pd=92 as=0 ps=0
M1042 p0 a0 XOR_WO_0/a_71_27# XOR_WO_0/w_50_21# pfet w=40 l=2
+  ad=240 pd=92 as=0 ps=0
M1043 XOR_WO_0/a_56_27# b0 p0 XOR_WO_0/w_50_21# pfet w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1044 XOR_WO_0/a_63_n51# XOR_WO_0/a_59_n30# gnd Gnd nfet w=10 l=2
+  ad=60 pd=32 as=0 ps=0
M1045 p0 XOR_WO_0/a_51_n59# XOR_WO_0/a_63_n51# Gnd nfet w=10 l=2
+  ad=60 pd=32 as=0 ps=0
M1046 XOR_WO_0/a_79_n51# a0 p0 Gnd nfet w=10 l=2
+  ad=60 pd=32 as=0 ps=0
M1047 gnd b0 XOR_WO_0/a_79_n51# Gnd nfet w=10 l=2
+  ad=0 pd=0 as=0 ps=0
M1048 g1 a1 vdd 2AND_WO_1/w_0_0# pfet w=20 l=2
+  ad=120 pd=52 as=0 ps=0
M1049 vdd b1 g1 2AND_WO_1/w_0_0# pfet w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1050 2AND_WO_1/a_13_n43# a1 gnd Gnd nfet w=20 l=2
+  ad=120 pd=52 as=0 ps=0
M1051 g1 b1 2AND_WO_1/a_13_n43# Gnd nfet w=20 l=2
+  ad=140 pd=54 as=0 ps=0
M1052 g3 a3 vdd 2AND_WO_3/w_0_0# pfet w=20 l=2
+  ad=120 pd=52 as=0 ps=0
M1053 vdd b3 g3 2AND_WO_3/w_0_0# pfet w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1054 2AND_WO_3/a_13_n43# a3 gnd Gnd nfet w=20 l=2
+  ad=120 pd=52 as=0 ps=0
M1055 g3 b3 2AND_WO_3/a_13_n43# Gnd nfet w=20 l=2
+  ad=140 pd=54 as=0 ps=0
M1056 g0 a0 vdd 2AND_WO_0/w_0_0# pfet w=20 l=2
+  ad=120 pd=52 as=0 ps=0
M1057 vdd b0 g0 2AND_WO_0/w_0_0# pfet w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1058 2AND_WO_0/a_13_n43# a0 gnd Gnd nfet w=20 l=2
+  ad=120 pd=52 as=0 ps=0
M1059 g0 b0 2AND_WO_0/a_13_n43# Gnd nfet w=20 l=2
+  ad=140 pd=54 as=0 ps=0
M1060 g2 a2 vdd 2AND_WO_2/w_0_0# pfet w=20 l=2
+  ad=120 pd=52 as=0 ps=0
M1061 vdd b2 g2 2AND_WO_2/w_0_0# pfet w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1062 2AND_WO_2/a_13_n43# a2 gnd Gnd nfet w=20 l=2
+  ad=120 pd=52 as=0 ps=0
M1063 g2 b2 2AND_WO_2/a_13_n43# Gnd nfet w=20 l=2
+  ad=140 pd=54 as=0 ps=0
C0 a1 b1 4.8fF
C1 XOR_WO_1/a_56_27# p1 1.1fF
C2 XOR_WO_0/a_56_27# p0 1.1fF
C3 a3 b2 5.2fF
C4 a0 b0 3.5fF
C5 XOR_WO_3/a_56_27# p3 1.1fF
C6 a2 b1 2.4fF
C7 a2 b2 7.4fF
C8 a3 b3 12.6fF
C9 vdd g0 1.2fF
C10 p2 XOR_WO_2/a_56_27# 1.1fF
C11 g2 gnd! 1.6fF
C12 b2 gnd! 1.5fF
C13 2AND_WO_2/w_0_0# gnd! 1.0fF
C14 g0 gnd! 1.1fF
C15 2AND_WO_0/w_0_0# gnd! 1.0fF
C16 2AND_WO_3/w_0_0# gnd! 1.0fF
C17 2AND_WO_1/w_0_0# gnd! 1.0fF
C18 p0 gnd! 1.5fF
C19 XOR_WO_0/w_50_21# gnd! 2.7fF
C20 XOR_WO_0/a_51_n59# gnd! 1.6fF
C21 p1 gnd! 1.5fF
C22 XOR_WO_1/w_50_21# gnd! 2.7fF
C23 XOR_WO_1/a_51_n59# gnd! 1.6fF
C24 p2 gnd! 1.5fF
C25 XOR_WO_2/w_50_21# gnd! 2.7fF
C26 XOR_WO_2/a_51_n59# gnd! 1.6fF
C27 p3 gnd! 1.5fF
C28 XOR_WO_3/w_50_21# gnd! 2.7fF
C29 vdd gnd! 13.0fF
C30 XOR_WO_3/a_51_n59# gnd! 1.6fF
C31 a3 gnd! 1.1fF
C32 gnd gnd! 10.9fF
C33 b3 gnd! 3.2fF
